US09079889B2
Method 1 was followed using 6-bromo-3-fluoropicolinic acid (1.0 equiv.) and 4-(benzyloxy)-2-fluorophenylboronic acid (1.3 equiv.) and Pd(dppf)Cl2-DCM (0.15 equiv.) to give 6-(4-(benzyloxy)-2-fluorophenyl)-3-fluoropicolinic acid in 41% yield. LC/MS=342.1 (M+H), Rt=1.06 min.

reactant | 6-bromo-3-fluoropicolinic acid | 1.0 equiv. | BrC1=CC=C(C(=N1)C(=O)O)F | C6H3BrFNO2
reactant | 4-(benzyloxy)-2-fluorophenylboronic acid | 1.3 equiv. | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)B(O)O)F | C13H12BFO3
catalyst | Pd(dppf)Cl2 DCM | 0.15 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 6-(4-(benzyloxy)-2-fluorophenyl)-3-fluoropicolinic acid | 41% yield | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C1=CC=C(C(=N1)C(=O)O)F)F | C19H13F2NO3
